US07612067B2
C. 3-(1-Methyl-3-phenyl-1H-pyrazol-4-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine.
8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (160 mg, 0.73 mmol), 4-bromo-1-methyl-3-phenyl-1H-pyrazole (250 mg, 1.1 mmol) and cesium carbonate (490 mg, 1.50 mmol) are stirred in DMF (5 ml) and degassed by bubbling a stream of nitrogen through the mixture. PdCl2(PPh3)2 (15 mg) is added and the mixture is heated to 130° C. overnight. The mixture is added to water and extracted twice with ethyl acetate. The combined organic extracts are dried over Na2SO4, filtered and concentrated. The crude product is purified by chromatography using a hexane-ethyl acetate gradient (100% hexane to 50% ethyl acetate in hexane) to elute the title compound (17.5 mg, 4% yield). ES-MS (m/z): calc'd for C23H27N5: 373.5; found 374.2 (M+H)+. 1H NMR (400 mHz, CDCl3): δ 7.68 (s, 1H), 7.37 (m, 2H), 7.20 (m, 3H), 6.59 (s, 1H), 4.04 (s, 3H), 3.36 (m, 1H), 2.38 (s, 3H), 2.15 (s, 3H), 1.82 (m, 4H), 0.86 (t, 6H).

reactant | 8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.73 mmol, 160 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C=C(N2)C | C13H19N3
reactant | 4-bromo-1-methyl-3-phenyl-1H-pyrazole | 1.1 mmol, 250 mg | BrC=1C(=NN(C1)C)C1=CC=CC=C1 | C10H9BrN2
reactant | cesium carbonate | 1.50 mmol, 490 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(1-Methyl-3-phenyl-1H-pyrazol-4-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 17.5 mg, 4% yield | CN1N=C(C(=C1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C2=CC=CC=C2 | C23H27N5
